Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
visual changes, somonolence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ man with a past medical history
of ADD, ocular migraine, sinus issues who presents with an
episode of diplopia, somnolence and headache.
Patient reports that he was in his usual state of health on the
morning of presentation.  He went to his summer job at a local
___, where he works inside during the day in air
___.  Afterward, he took the bus home and then walked a
short distance to his family's home.  He let himself in the
house, and then said that he started to experience double 
vision.
He says that the objects in front of him looked as if they were
tilted inwards at about a 45° angle (left objects were tilted in
towards the right and on the right objects were tilted towards
the left).  When he closed one eye, 1 of the objects would
disappear, and he would only see 1 object.  He did this in both
eyes with the same response.  He then started to feel dizzy, as
if the room was spinning around him.  At this point he called 
his
mother who is a ___.  He sat down on one couch at home and
waited for her to come home.  At this time, he does not remember
what happened next.
His mom relates the next part of the story, she came home about
10 minutes after he called her.  She found him lying on another
couch in a different room with the TV on on a random program 
(the
patient does not remember turning on the television to watch TV
or remember walking to this couch).  She said that he was
difficult to arouse, did not wake up to voice, and on the mildly
open his eyes to very deep noxious stimuli.  After about ___
minutes, the patient started to wake up and returned back to his
baseline.  After he began to wake up, he began to complain of a
left-sided frontal headache above his left eye.  
After waking up, ___ remembers subsequent events.  He
remember is experiencing the left-sided frontal headache and
telling his mother about it, and then he says he felt some
abnormal sensations in his right arm.  He describes the
sensations as tingling down to his fingertips on the right arm
and sometimes on the right leg.  This lasted for only a few
minutes, and then went away.  
The patient was brought to the emergency department, and at that
time he began to experience his usual ocular migraine 
phenomenon.
He says that when he was in high school he had several ocular
migraines, in which she would have he sees shapes to light in 
his
left eye, which is exactly what he experienced while in the
emergency department.  He did endorse photophobia but no
phonophobia.  Currently, he describes the headache as a 
throbbing
pain above his left eye.

 
Past Medical History:
ADD
Sinus issues with h/o sinus surgeries and adenoid removal
 
Social History:
___
Family History:
No family history of seizure or stroke.  Strong family history 
of
migraine, mom with migraines.  No family history of aneurysms. 
No family history of connective tissue disorders, but lots of
double-jointed people in the family.
 
Physical Exam:
Neurologic: 
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to examiner, fluent language,
normal prosody, no paraphasic errors, intact naming and
repetition.  Not dysarthric.  Able to follow midline and
appendicular commands.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 8 to 4mm and brisk bilaterally. EOMI
without nystagmus.  
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
 L  5    ___   ___  5   5    5  5     5     5  
 R  5    ___   ___  5   5    5  5     5     5  

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred
 
Pertinent Results:
___ 06:25AM BLOOD WBC-6.6 RBC-4.60 Hgb-13.9 Hct-41.3 MCV-90 
MCH-30.2 MCHC-33.7 RDW-12.4 RDWSD-40.5 Plt ___
___ 08:47AM BLOOD ___
___ 06:25AM BLOOD Glucose-107* UreaN-14 Creat-0.9 Na-140 
K-4.0 Cl-100 HCO3-28 AnGap-12
___ 08:47AM BLOOD Cholest-151
___ 06:25AM BLOOD Calcium-9.7 Phos-4.3 Mg-2.2
___ 08:47AM BLOOD %HbA1c-5.2 eAG-103
___ 08:47AM BLOOD Triglyc-86 HDL-38* CHOL/HD-4.0 LDLcalc-96
___ 08:47AM BLOOD TSH-6.0*
___ 08:47AM BLOOD Free T4-1.___ man with a PMH of ADD and sinus disease who 
presented after an episode of binocular diplopia followed by 
altered consciousness, somnolence, and later by a left-sided 
periorbital headache with visual aura and right-sided 
paresthesias. On exam, he was initially found to have direction 
changing nystagmus on end gaze with corrective saccade on head 
impulse testing. CT/CTA were normal. cvEEG did not show any 
epileptiform discharges or seizures. MRI was remarkable for an 
acute left mesotemporal infarct. Labs were revealing for an LDL 
of 96. The patient was started on a statin and ASA for secondary 
stroke prevention. TEE was attempted inpatient but he did not 
tolerate it. TTE was performed which showed PFO. Holter monitor 
was placed for 2 weeks.

Transitional issues:
-Follow-up holter monitoring
-follow-up lower extremity dopplers
-Continue ASA, statin
-Follow-up with neurology ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY for sleep 
2. Amphetamine-Dextroamphetamine 30 mg PO TID PRN for ADD 
3. Fluticasone Propionate NASAL 1 SPRY NU PRN sinus congestion 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QAM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Amphetamine-Dextroamphetamine 30 mg PO TID PRN for ADD  
4.  Fluticasone Propionate NASAL 1 SPRY NU PRN sinus congestion  

5.  Sertraline 50 mg PO DAILY for sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had changes in 
your vision and were found to be minimally responsive. The 
imaging of your brain showed that you had a tiny stroke. It is 
unclear what caused your stroke. We did a transesophageal 
echocardiogram to evaluate your heart which showed ***. We are 
also going to send you home on a heart rate monitor to look for 
any abnormal heart beats that could have been the cause of your 
stroke. We found that your cholesterol was high, so we have 
started you on a medication to lower it. We have also started 
you on a blood thinner, aspirin. Both of these medications have 
been shown to decrease the risk of a second stroke. It is also 
possible that some of the drugs you have been using could have 
caused your stroke. Therefore, we advise that you avoid these 
substances to prevent you from having another, possibly bigger 
stroke.

Please follow-up with neurology on ___ at 430pm at 
the ___ floor ___ building.

Thank you for involving us in your care.

___ Neurology
 
Followup Instructions:
___